Test OpAmp

*.OPTIONS RELTOL=.0001
*.include MCP6041ng.lib
.include MCP6041.txt

V1 vdd 0 2.2
V2 vss 0 -2.2

Vin in 0 dc 0 ac 1 sin(0 100m 500)

Rin in opin 1000k
Rfb opout opin 10000k

*Eop opout 0 opin 0 -10000

Xop 0 opin vdd vss opout MCP6041
*       MCP6041 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input

*.dc Vin -2.2 2.2 0.1
.tran 0.1m 10m

.control
ac dec 10 1 100k
plot vdb(opout)
dc Vin -0.2 0.2 0.01
plot v(opout) v(opin)
tran 0.1m 10m
plot v(in) v(opin) v(opout)
.endc

.end
